US08283354B2
To a stirred solution of 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol (200 mg, 0.54 mmol) in 12 mL THF was added diisopropyl ethylamine (188 μL, 1.08 mmol) at room temperature. The mixture was cooled to—60° C., and a solution of ethyl chloroformate (52 μL, 0.54 mmol) in 0.6 mL THF was added dropwise. After allowing the reaction to warm to room temperature, the mixture was partitioned between H2O and CH2Cl2. The layers were separated, and the aqueous layer was extracted twice more with CH2Cl2. The organic layers were combined, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 hexanes:CH2Cl2 gave ethyl ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (92 mg, 38%). LC/MS: m/z 439.5 (M+H)+ at 2.40 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | 0.54 mmol, 200 mg | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C21H23FN4O
reactant | diisopropyl ethylamine | 1.08 mmol, 188 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.54 mmol, 52 μL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
product | ethyl ((S)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 92 mg, 38% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)CNC(OCC)=O)C | C24H27FN4O3
